US08008293B2
Synthesis of (2R,5S)-5-(4-chlorophenyl)pyrrolidine-1,2-dicarboxylic acid 1-t-butyl ester 2-ethyl ester
A dimethyl formamide (50 mL) solution containing (2R,5S)-5-(4-chlorophenyl)pyrrolidine-2-carboxylic acid ethyl ester (4.71 g), triethylamine (4.13 mL) and di-t-butyl dicarbonate (5.28 g) was stirred for 14 hours at room temperature. Imidazole was added to the reaction mixture, and stirring was continued for 20 minutes at room temperature. Ethyl acetate was added to the reaction solution, and the resultant was washed with 0.2 N hydrochloric acid (twice) and brine in sequence, and the organic layer was dried over anhydrous magnesium sulfate. The solvent was removed under a vacuum, and the title compound (6.58 g) was obtained. The physical property values are as follows.

reactant | dimethyl formamide | 50 mL | CN(C=O)C | C3H7NO
reactant | (2R,5S)-5-(4-chlorophenyl)pyrrolidine-2-carboxylic acid ethyl ester | 4.71 g | C(C)OC(=O)[C@@H]1N[C@@H](CC1)C1=CC=C(C=C1)Cl | C13H16ClNO2
reactant | di-t-butyl dicarbonate | 5.28 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | Imidazole | N1C=NC=C1 | C3H4N2
solvent | Ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | triethylamine | 4.13 mL | C(C)N(CC)CC | C6H15N
product | (2R,5S)-5-(4-chlorophenyl)pyrrolidine-1,2-dicarboxylic acid 1-t-butyl ester 2-ethyl ester | 6.58 g | CCOC(=O)[C@@H]1N([C@@H](CC1)C1=CC=C(C=C1)Cl)C(=O)OC(C)(C)C | C18H24ClNO4
